US07851493B2
23.2 ml Triethylamine and a solution of 11.3 g 2-(4-methoxy-benzoylamino)-3-oxo-butyric acid ethyl ester in 200 ml dichloromethane were added sequentially to a stirred solution of 20.5 g iodine and 21.2 g triphenylphosphine in 500 ml dry dichloromethane. The reaction mixture was stirred at room temperature overnight. The solvent was evaporated in vacuo and the resulting residue purified by flash chromatography on silica gel to obtain 6.0 g 2-(4-methoxy-phenyl)-5-methyl-oxazole-4-carboxylic acid ethyl ester as pale yellow solid.

reactant | Triethylamine | 23.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-methoxy-benzoylamino)-3-oxo-butyric acid ethyl ester | 11.3 g | C(C)OC(C(C(C)=O)NC(C1=CC=C(C=C1)OC)=O)=O | C14H17NO5
reactant | iodine | 20.5 g | II | I2
reactant | triphenylphosphine | 21.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-(4-methoxy-phenyl)-5-methyl-oxazole-4-carboxylic acid ethyl ester | 6.0 g | C(C)OC(=O)C=1N=C(OC1C)C1=CC=C(C=C1)OC | C14H15NO4
